US08242104B2
To a mixture of trifluoro-methanesulfonic acid 2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yl ester (83 mg, 0.19 mmol) and 2N aqueous sodium carbonate (600 μL) in DMF (1.2 mL) was added palladium bis(dibenzylideneacetone) (6 mg, 0.01 mmol), triphenylphosphine (4 mg, 0.015 mmol) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (75 mg, 0.24 mmol). The reaction mixture was degassed and then heated at 90° C. under an atmosphere of argon for 2 h before being concentrated in vacuo. The resultant residue was partitioned between ethyl acetate and water, the aqueous extracted with ethyl acetate (×3) and the combined organic extracts dried (MgSO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 10% methanol in ethyl acetate) to give 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a white solid (41 mg, 45%). LCMS (*) RT=3.24 min, [M+H]+=478. 1H NMR 400 MHz (CDCl3) δ: 9.65 (1H, s), 7.94 (1H, s), 7.89 (1H, s), 7.00 (1H, s), 6.84 (1H, s), 4.60 (2H, s), 4.50 (2H, s), 4.18 (2H, s), 3.67 (2H, s), 2.62 (2H, s), 1.59 (6H, d, J=6.62 Hz), 1.50 (9H, s)

reactant | trifluoro-methanesulfonic acid 2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yl ester | 0.19 mmol, 83 mg | C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=NC(=C3)OS(=O)(=O)C(F)(F)F | C16H15F3N6O4S
reactant | sodium carbonate | 2N, 600 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.015 mmol, 4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.24 mmol, 75 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | palladium bis(dibenzylideneacetone) | 0.01 mmol, 6 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
product | 4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 41 mg, 45% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=N1 | C25H31N7O3
